US05268389
N-(3-Cyanophenyl)-5,6-dihydro-2-methyl-1,4-oxathiin-3 carboxamide (Compound 9)
5,6-Dihydro-2-methyl-1,4-oxathiin-3-carboxylic acid (5.0 g, 0.031 mole) and thionyl chloride (4.1 g, 0.034 mole) were heated under reflux in methylene chloride for about 2 hours, then evaporated under reduced pressure. The solid residue, crude 5,6-dihydro-2-methyl-1,4-oxathiin-3-carbonyl chloride, was dissolved in methylene chloride and the chilled solution treated dropwise with a solution of 3-aminobenzonitrile (3.7 g, 0.031 mole) and triethylamine (3.2 g, 0.032 mole) in methylene chloride. The reaction mixture was stirred at room temperature for a further 3 hours and then worked up by washing with dilute hydrochloric acid and dilute sodium hydroxide. Evaporation of the solvent gave a solid residue, which was recrystallized from methanol to give a white solid, m.p. 119°-121° C. (5.5 g, 67% yield).

reactant | 5,6-Dihydro-2-methyl-1,4-oxathiin-3-carboxylic acid | 0.031 mole, 5.0 g | CC=1OCCSC1C(=O)O | C6H8O3S
reactant | thionyl chloride | 0.034 mole, 4.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-aminobenzonitrile | 0.031 mole, 3.7 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | triethylamine | 0.032 mole, 3.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3-Cyanophenyl)-5,6-dihydro-2-methyl-1,4-oxathiin-3 carboxamide | 67% yield | C(#N)C=1C=C(C=CC1)NC(=O)C1=C(OCCS1)C | C13H12N2O2S
